US07241785B2
A mixture of 3-(2-quinolylmethoxy)-5-isoxazolylmethanol (1.54 g) and thionyl chloride (5 ml) was stirred at room temperature for 1 hr. The reaction mixture was concentrated under reduced pressure and saturated aqueous sodium hydrogen carbonate was added to the residue. The mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated to give 2-(5-chloromethyl-3-isoxazolyloxymethyl)quinoline (1.61 g, yield 98%) as colorless crystals. The crystals were recrystallized from ethyl acetate-hexane. melting point: 126–127° C.

reactant | 3-(2-quinolylmethoxy)-5-isoxazolylmethanol | 1.54 g | N1=C(C=CC2=CC=CC=C12)COC1=NOC(=C1)CO | C14H12N2O3
reactant | thionyl chloride | 5 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-(5-chloromethyl-3-isoxazolyloxymethyl)quinoline | 1.61 g, yield 98% | ClCC1=CC(=NO1)OCC1=NC2=CC=CC=C2C=C1 | C14H11ClN2O2
